US06458772B1
c) Chloromethyl 4-(4-methoxybenzyloxy)benzoate
To a solution of 4-(4-methoxybenzyloxy)benzoic acid (5.16 g, 20 mmole) in 100 ml 1,4-dioxane was added a 40% solution of tetrabutylammonium hydroxide (14.27 g, 22 mmole) and the mixture was stirred 2 hours at room temperature. The mixture was evaporated under reduced pressure and co-evaporated two times with 1,4-dioxane and two times with toluene. The dried product was dissolved in 60 ml dichloromethane and iodochloromethane (35.3 g 200 mmole) was added. The solution was stirred for two days at room temperature and evaporated under reduced pressure. About 100 ml ethyl actate was added and the organic phase washed twice with water, dried with sodium sulfate and evaporated under reduced pressure. The product was isolated by silica gel column chrornatography. Yield: 4.48 g=73%

reactant | 4-(4-methoxybenzyloxy)benzoic acid | 20 mmole, 5.16 g | COC1=CC=C(COC2=CC=C(C(=O)O)C=C2)C=C1 | C15H14O4
reactant | tetrabutylammonium hydroxide | 22 mmole, 14.27 g | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | iodochloromethane | 200 mmole, 35.3 g | ICCl | CH2ClI
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | Chloromethyl 4-(4-methoxybenzyloxy)benzoate | COC1=CC=C(COC2=CC=C(C(=O)OCCl)C=C2)C=C1 | C16H15ClO4
